US04440779
To a solution of dimethylsulfoxide (390 mg, 5 mmol) in methylene chloride (25 ml) under N2 cooled to -78° C. is added a solution of oxalyl chloride (630 mg, 5 mmol) in methylene chloride (2 ml). The mixture is allowed to stir at -78° for 30 minutes, then a solution of ethyl 1-methyl-2-hydroxymethyl)-4-(3-methylphenoxymethyl)pyrrole-5-carboxylate (1.63 g, 5 mmol) in CH2Cl2 (5 ml) is added. The resulting solution is stirred for 1 hour, then triethylamine (500 mg, 5 mmol) is added. The reaction is followed by TLC until complete. The resulting solution is washed with water (2×25 ml) then saturated brine, and dried over anhydrous sodium sulfate. The crude product is purified by preparative HPLC to afford ethyl 1-methyl-2-formyl-4-(3-methylphenoxymethyl)pyrrole-5-carboxylate.

reactant | dimethylsulfoxide | 5 mmol, 390 mg | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 5 mmol, 630 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-(3-methylphenoxymethyl)pyrrole-5-carboxylate | 5 mmol, 1.63 g | CC=1C=C(OCC=2C=CNC2C(=O)[O-])C=CC1
reactant | triethylamine | 5 mmol, 500 mg | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | ethyl 1-methyl-2-formyl-4-(3-methylphenoxymethyl)pyrrole-5-carboxylate | CN1C(=CC(=C1C(=O)OCC)COC1=CC(=CC=C1)C)C=O | C17H19NO4
